US07014876B2
(Pretreatment of Test Substance and Measurement of Catechin Level in the Blood)
To 0.25 mL of the resulting plasma were added 0.25 mL of a phosphate buffer (obtained by dissolving 48 g of NaH2O4, 20 g of vitamin C and 1 g of EDTA-2Na thoroughly in 1 L of distilled water and then adjusting pH of the resulting mixture to 3.9 with 0.1 mol/L NaOH) and 0.5 mL of acetonitrile, followed by thorough mixing. After addition of 3 mL of ethyl acetate and mixing, the resulting mixture was centrifuged at 3000 r/min at 4° C. for 15 minutes to obtain an upper ethyl acetate layer. The above-described extracting operation was repeated three times. The ethyl acetate layers thus obtained were collected, dried on a rotary evaporator and then dissolved in 0.9 mL of a 1:8 water-methanol mixture. The resulting solution was provided for HPLC chromatodisk. After filtration with 4.0 mL of methanol, the filtrate was dried over the rotary evaporator again. The catechin extract thus obtained (dried portion) was dissolved in 0.3 mL of a 9:1 water-acetonitrile mixture. A 0.1 mL portion of the resulting solution was provided for Chemiluminescence Analyzer (ultraweak light detector; product of Tohoku Electric Industrial Co., Ltd.) and the amount of epigallocatechin gallate (EGCg), a typical ingredient of catechins, in the plasma was measured. The catechin concentration was expressed by the amount (ng/mL) of epigallocatechin gallate per mL of plasma.

reactant | phosphate | 0.25 mL | P(=O)([O-])([O-])[O-]
reactant | vitamin C | 20 g | OC=1[C@H](OC(C1O)=O)[C@H](CO)O | C6H8O6
reactant | NaOH | 0.1 mol/L | [OH-].[Na+]
reactant | epigallocatechin gallate | C1[C@H]([C@H](OC2=CC(=CC(=C21)O)O)C3=CC(=C(C(=C3)O)O)O)OC(=O)C4=CC(=C(C(=C4)O)O)O | C22H18O11
solvent | water | 1 L | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | Catechin | C1=CC(=C(C=C1C2C(CC=3C(=CC(=CC3O2)O)O)O)O)O | C15H14O6
